US05710246
A solution of Boc-Lys(Cbz)-Pro-D-Ala-NH2 (80 gm) in 2-propanol (IPA, 800 mL) and acetone (108 mL) was hydrogenated over 4% Pd/C at 60 psi hydrogen. The catalyst was filtered off and rinsed with EtOAc, and the filtrate evaporated in vacuo to dryness. The residue was taken up in EtOAc (700 mL) and again evaporated in vacuo to dryness, and this procedure was repeated once. After dissolving the residue in EtOAc (250 mL) the solution was triturated with heptane (200 mL). The mixture was evaporated in vacuo to yield a solid which formed a suspension when treated with EtOAc (250 mL). The suspension was treated with heptane (100 mL), filtered and dried in vacuo to yield 64.2 gm Boc-Lys(iPr)-Pro-D-Ala-NH2. HPLC: 98.5 pa %, MS: (M+H)+ =456

reactant | Boc-Lys(Cbz)-Pro-D-Ala-NH2 | 80 gm | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OC(C)(C)C | C27H41N5O7
reactant | hydrogen | [H][H] | H2
reactant | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
reactant | heptane | 100 mL | CCCCCCC | C7H16
solvent | 2-propanol | 800 mL | CC(C)O | C3H8O
solvent | acetone | 108 mL | CC(=O)C | C3H6O
catalyst | Pd/C | [Pd] | Pd
product | Boc-Lys(iPr)-Pro-D-Ala-NH2 | 64.2 gm | N([C@@H](CCCCNC(C)C)C(=O)N1[C@H](C(=O)N[C@H](C)C(=O)N)CCC1)C(=O)OC(C)(C)C | C22H41N5O5
